US05039805
p-Cyanophenylacetic acid and N-(m-aminobenzoyl)-β-alanine benzyl ester trifluoroacetate are coupled to give N-[m-[2-(p-cyanophenyl)acetamido]benzoyl]-β-alanine benzyl ester, m.p. 98°-99° C.

reactant | p-Cyanophenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | N-(m-aminobenzoyl)-β-alanine benzyl ester trifluoroacetate | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(CCNC(C1=CC(=CC=C1)N)=O)=O
product | N-[m-[2-(p-cyanophenyl)acetamido]benzoyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(C1=CC(=CC=C1)NC(CC1=CC=C(C=C1)C#N)=O)=O)=O | C26H23N3O4
